US07465726B2
4-(5-Bromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
To a mixture of 5-bromo-4-chloro-2-iodo-1H-pyrrolo[2,3-b]pyridine (46 mg, 0.12 mmol), potassium carbonate (36 mg, 0.25 mmol), dichlorobis-(triphenylphosphine)palladium (9 mg, 0.01 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (42 mg, 0.13 mmol) were added degassed dioxane (4 mL) and water (1 mL), and the mixture was heated to reflux for 5 h. The reaction was evaporated under reduced pressure and the residue was dissolved in DCM and filtered. The DCM filtrate was evaporated and the crude product obtained was purified by chromatography on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with DCM:methanol 100:0→99.5:0.5], yielding the title compound. MS (ES+): m/z 413.84 (100) [MH+]; HPLC: tR=6.95 min (ZQ2000, nonpolar—15 min).

reactant | 5-bromo-4-chloro-2-iodo-1H-pyrrolo[2,3-b]pyridine | 0.12 mmol, 46 mg | BrC=1C(=C2C(=NC1)NC(=C2)I)Cl | C7H3BrClIN2
reactant | potassium carbonate | 0.25 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.13 mmol, 42 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
catalyst | dichlorobis-(triphenylphosphine)palladium | 0.01 mmol, 9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(5-Bromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=2C(=NC=C(C2Cl)Br)N1 | C17H19BrClN3O2
